US07915268B2
4-(2,4-Dimethoxybenzylamino)-3-aminobenzonitrile.
A solution of 4-(2,4-dimethoxybenzylamino)-3-nitrobenzonitrile (4.54 g) in THF (400 mL) was treated with a solution of sodium hydrosulfite (20 g) and sodium bicarbonate (10 g) in distilled water (350 mL). Enough methanol was immediately added (50 mL) to maintain a homogeneous solution. After 15 minutes, EtOAc (500 mL) and saturated aqueous NaCl (500 mL) were added and the organic layer was separated. The aqueous layer was extracted again with 400 mL EtOAc. The combined organic layers were washed with saturated aqueous NaCl (500 mL) and separated. The organic phase was dried over Na2SO4, filtered, and concentrated in vacuo to provide 4.33 g of the title compound.

reactant | 4-(2,4-dimethoxybenzylamino)-3-nitrobenzonitrile | 4.54 g | COC1=C(CNC2=C(C=C(C#N)C=C2)[N+](=O)[O-])C=CC(=C1)OC | C16H15N3O4
reactant | sodium hydrosulfite | 20 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 10 g | C([O-])(O)=O.[Na+]
reactant | NaCl | 500 mL | [Na+].[Cl-]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | water | 350 mL | O | H2O
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
solvent | methanol | CO | CH4O
product | 4-(2,4-Dimethoxybenzylamino)-3-aminobenzonitrile | 4.33 g | COC1=C(CNC2=C(C=C(C#N)C=C2)N)C=CC(=C1)OC | C16H17N3O2
